US05656642
1.3 g of potassium carbonate was added to a solution of 2.0 g of 4-[N-methyl-N-(2-phenylethyl)amino]-1-(3-aminobenzoyl)piperidine in 30 ml of acetone and 20 ml of water. Thereto was dropwise added 0.9 ml of 5-chlorovaleryl chloride with ice-cooling. The mixture was stirred at the same temperature for 20 minutes. The reaction mixture was poured into ice water. The mixture was extracted with methylene chloride. The extract was washed with a saturated aqueous sodium chloride solution, dried with magnesium sulfate, and concentrated under reduced pressure to obtain 2.2 g of 4-[N-methyl-N-(2-phenylethyl)amino]-1-[3-(5-chlorovalerylamino)benzoyl]piperidine as a colorless oil.

reactant | potassium carbonate | 1.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-[N-methyl-N-(2-phenylethyl)amino]-1-(3-aminobenzoyl)piperidine | 2.0 g | CN(CCC1=CC=CC=C1)C1CCN(CC1)C(C1=CC(=CC=C1)N)=O | C21H27N3O
reactant | 5-chlorovaleryl chloride | 0.9 ml | ClCCCCC(=O)Cl | C5H8Cl2O
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | water | 20 ml | O | H2O
product | 4-[N-methyl-N-(2-phenylethyl)amino]-1-[3-(5-chlorovalerylamino)benzoyl]piperidine | 2.2 g | CN(CCC1=CC=CC=C1)C1CCN(CC1)C(C1=CC(=CC=C1)NC(CCCCCl)=O)=O | C26H34ClN3O2
